US08293768B2
Preparation of ethyl 5-(3-(2-chloroethyl)ureido)-3-methylthiophene-2-carboxylate
A mixture of ethyl 5-amino-3-methylthiophene-2-carboxylic acid ethyl ester (4.75 g, 25.6 mmol) and 2-chloroethyl-isocyanate (2.63 ml, 30.8 mmol) in anhydrous acetonitrile (50 mL) was stirred under nitrogen atmosphere at 70° C. for 20 h, then was cooled to ambient temperature and concentrated in vacuo. The residue was triturated with hexanes/ethyl acetate to afford an off-white solid. The filtrate was concentrated in vacuo, and the residue was triturated with hexanes/ethyl acetate to afford an off white solid. The combined solid was dried to afford the title compound in 82% yield (6.11 g): 1H NMR (300 MHz, CDCl3) δ 7.73 (br s, 1H), 6.31 (s, 1H), 5.60 (t, J=5.0 Hz, 1H), 4.27 (q, J=7.1 Hz, 2H), 3.69-3.59 (m, 4H), 2.44 (s, 3H), 1.33 (t, J=7.1 Hz, 3H); MS (ES+) m/z 291.2 (M+1).

reactant | ethyl 5-amino-3-methylthiophene-2-carboxylic acid ethyl ester | 25.6 mmol, 4.75 g | C(C)OC(=O)C=1SC(=C(C1C)CC)N | C10H15NO2S
reactant | 2-chloroethyl-isocyanate | 30.8 mmol, 2.63 ml | ClCCN=C=O | C3H4ClNO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | ethyl 5-(3-(2-chloroethyl)ureido)-3-methylthiophene-2-carboxylate | 82% yield | ClCCNC(NC1=CC(=C(S1)C(=O)OCC)C)=O | C11H15ClN2O3S
